US04895862
Step (2) Preparation of N'-Hydroxy-2-(4-bromo-2-fluorophenyl)ethanimidamide
Hydroxylamine hydrochloride (8.93 g, 128.5 mmol), was added in one portion to a solution of sodium methoxide, freshly prepared from sodium (2.96 g, 128.5 mmol) in methanol (200 mL). The resulting mixture was stirred 1 hour at room temperature, during which a precipitate was formed. 4-Bromo-2-fluorophenylacetonitrile (11.0 g, 51.4 mmol) was added and the resulting mixture heated to reflux for 20 hours. A white solid was removed by filtration of the hot mixture and discarded. The filtrate was concentrated to a volume of 100 mL to give a precipitate which was washed with water, followed by 5% EtOAc/hexanes. A second crop was obtained from the filtrate upon further concentration. The two crops were combined and dried in vacuo to give the product as a white crystalline solid (10.4 g, 82%) of sufficient purity for use in the subsequent reaction.

reactant | Hydroxylamine hydrochloride | 128.5 mmol, 8.93 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 128.5 mmol, 2.96 g | [Na] | Na
reactant | 4-Bromo-2-fluorophenylacetonitrile | 51.4 mmol, 11.0 g | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
solvent | methanol | 200 mL | CO | CH4O
product | N'-Hydroxy-2-(4-bromo-2-fluorophenyl)ethanimidamide | 10.4 g, 82% | ON=C(CC1=C(C=C(C=C1)Br)F)N | C8H8BrFN2O
